US04271071
A mixture of 105.0 g (0.5 mole) of 2-nitro-4-acetamidoanisole, 67.0 g (0.5 mole) of ethyl acetoacetate, 550 ml of isopropyl alcohol, 10.0 g of 5% Pt/C, and 3.0 g of p-toluenesulfonic acid is treated in an autoclave at 165° C. with 1,000 psi of hydrogen until the uptake of hydrogen ceases. The solvent and catalyst are removed. Upon standing, 143.8 g (98%) of ethyl 3-(2'-methoxy-5-acetamidophenylamino)butyrate is obtained.

reactant | 2-nitro-4-acetamidoanisole | 0.5 mole, 105.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)NC(C)=O)OC | C9H10N2O4
reactant | ethyl acetoacetate | 0.5 mole, 67.0 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | hydrogen | [H][H] | H2
catalyst | Pt/C | 10.0 g | [Pt] | Pt
catalyst | p-toluenesulfonic acid | 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | isopropyl alcohol | 550 ml | C(C)(C)O | C3H8O
product | ethyl 3-(2'-methoxy-5-acetamidophenylamino)butyrate | 143.8 g, 98% | COC1=C(C=C(C=C1)NC(C)=O)NC(CC(=O)OCC)C | C15H22N2O4
